US05616793
Reacting the 2-cyano-5-methylhex-2-enoic acid ethyl ester with diethyl malonate to form 3-isobutylglutaric acid;

reactant | 2-cyano-5-methylhex-2-enoic acid ethyl ester | C(C)OC(C(=CCC(C)C)C#N)=O | C10H15NO2
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 3-isobutylglutaric acid | C(C(C)C)C(CC(=O)O)CC(=O)O | C9H16O4
